US05045540
N-(4-Morpholinylsulfonyl)-L-phenylalanine.
A solution of L-PHE (66 g), NaOH (16 g), and water (120 mL) was treated dropwise with a solution of 4-morpholinylsulfamyl chloride (37 g, prepared according to the methods of R. Wegler and K. Bodenbenner, Anallen der Chemie, 624, 25 (1959) and G. Weiss and G. Schulze, Anallen der Chemie, 729, 40 (1969)) in THF (80 mL). The reaction was stirred for 6 hours at room temperature then concentrated aqueous HCl was added dropwise to bring the solution to pH 2. Product was extracted into EtOAc and this solution was washed with lN HCl, dried over MgSO4 and evaporated. The residue was triturated with ether to give a solid that was recrystallized from water to give morpholinylsulfonyl-PHE. MP 157°-158° C. MS (FAB) 337 (m +Na), 315 (m +1).

reactant | L-PHE | 66 g | C1=CC=C(C=C1)C[C@@H](C(=O)O)N | C9H11NO2
reactant | NaOH | 16 g | [OH-].[Na+]
reactant | 4-morpholinylsulfamyl chloride | N1(CCOCC1)NS(=O)(=O)Cl | C4H9ClN2O3S
reactant | HCl | Cl | ClH
reactant | THF | 80 mL | C1CCOC1 | C4H8O
solvent | water | 120 mL | O | H2O
product | N-(4-Morpholinylsulfonyl)-L-phenylalanine | N1(CCOCC1)S(=O)(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C13H18N2O5S
